US08580799B2
To a suspension of 2-[(2-amino-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione (4.13 g, 15 mmol), NaBr (3.10 g, 30 mmol) and CuBr (2.15 g, 15 mmol) in acetonitrile (150 mL) at 40° C. under nitrogen atmosphere was added tert-butyl nitrite (2.32 mL, 19.5 mmol) dropwise over 30-40 min. After the addition was complete, heating was maintained towards an internal temp of 60-70° C., and the suspension was stirred at this temperature for 2 h. After cooling down, the mixture was diluted with water, and extracted with ethyl acetate. The combined organic layers (200 mL) were washed with aq HCl (1M, 50 mL), then with brine (50 mL) and dried (MgSO4). After concentration on the rotary evaporator, the residue was purified on silica gel to afford 2-[(2-bromo-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione [1.50 g, yield 28%; HPLC/MS: m/z=339 (M+H); log P(HCOOH)=2.39].

reactant | 2-[(2-amino-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione | 15 mmol, 4.13 g | NC=1SC=C(N1)CON1C(C2=CC=CC=C2C1=O)=O | C12H9N3O3S
reactant | NaBr | 30 mmol, 3.10 g | [Na+].[Br-]
reactant | tert-butyl nitrite | 19.5 mmol, 2.32 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-[(2-bromo-1,3-thiazol-4-yl)methoxy]-1H-isoindole-1,3(2H)-dione | 1.50 g, yield 28% | BrC=1SC=C(N1)CON1C(C2=CC=CC=C2C1=O)=O | C12H7BrN2O3S
